datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:7])[H:8],23.3049
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:10],7.631616
[C:0]([H:1])([H:2])([H:3])[H:4].[S:5][H:6]>>[C:0]([H:2])([H:3])[H:4].[H:1][S:5][H:6],66.3
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19],74.7262
[C:0]([N:1]=[O:2])([H:3])([H:4])[H:5].[N:6]([H:7])[H:8]>>[C:0]([N:1]=[O:2])([H:4])[H:5].[H:3][N:6]([H:7])[H:8],4.489432
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39][H:40]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:19][O:38][O:39][H:40],58.19944
[C:0](=[S:1])([H:2])[H:3].[C:4](=[C:5][S:6][H:9])([H:7])[H:8]>>[C:0](=[S:1])[H:3].[H:2][C:5](=[C:4]([H:7])[H:8])[S:6][H:9],27.196
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:12])[O:18][O:19])([H:10])[H:11])([H:7])([H:8])[H:9],-2.244716
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][H:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:21][O:38][H:39],-5.819944
[C:0]([O:1][O:2][O:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([O:1][H:8])([H:4])([H:5])[H:6].[O:2][O:3][H:7],32.2283
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[Cl:7]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][Cl:7],0.0
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([C:8]([S:9][H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])([S:9][H:14])[H:13],189.284
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16])[H:6],61.7977
[C:0]1([H:10])=[C:1]([H:11])[C:2](=[C:3]2[C:4]([H:12])=[C:5]([H:13])[C:6]([H:14])=[C:7]2[H:15])[C:8]([H:16])=[C:9]1[H:17].[H:18]>>[C:0]1([H:10])[C:1]([H:11])([H:18])[C:2](=[C:3]2[C:4]([H:12])=[C:5]([H:13])[C:6]([H:14])=[C:7]2[H:15])[C:8]([H:16])=[C:9]1[H:17],1.2552
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:6],69.5799
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[O:14]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][O:14],0.0
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],89.1192
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([S:1][H:7])([H:3])([H:4])[H:5].[S:2][H:6],3.7656
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9](=[S:10])[H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:11])([H:12])[H:13])([C:9](=[S:10])[H:15])[H:14],68.1992
[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],-6.276
